US08138177B2
Step 3. N-{(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}-4-methyl-3-[2-(methylthio)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide
To a solution of 7-methyl-1-[2-(methylthio)ethyl]-1,3-dihydro-2H-benzimidazol-2-one (0.21 g, 0.93 mmol) in 1,2-dichloroethane (5 mL) were added triethylamine (0.43 mL, 3.1 mmol) and 4-nitrophenyl chloroformate (0.23 g, 1.1 mmol) at 0° C. and the mixture was stirred at rt for 4 h. Then to this mixture was added a solution of N,N-dimethyl-tert-leucinamide (ca. 1.4 mmol, prepared according to the procedure described in steps 1 and 2 of example 3 from dimethylamine hydrochloride) in 1,2-dichloroethane (3 mL) at 0° C. and stirred rt. After 14 h, the reaction was quenched by addition of water (50 mL) and extracted with dichloromethane (50 mL×2). The combined organic layers were washed with water (30 mL×4), brine (30 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by preparative TLC eluting with dichloromethane/methanol (10/1) to afford 0.31 g (83%) of the title compound.

reactant | 7-methyl-1-[2-(methylthio)ethyl]-1,3-dihydro-2H-benzimidazol-2-one | 0.93 mmol, 0.21 g | CC1=CC=CC2=C1N(C(N2)=O)CCSC | C11H14N2OS
reactant | triethylamine | 3.1 mmol, 0.43 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 1.1 mmol, 0.23 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N,N-dimethyl-tert-leucinamide | CN(C([C@@H](N)C(C)(C)C)=O)C | C8H18N2O
reactant | dimethylamine hydrochloride | Cl.CNC
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | N-{(1S)-1-[(dimethylamino)carbonyl]-2,2-dimethylpropyl}-4-methyl-3-[2-(methylthio)ethyl]-2-oxo-2,3-dihydro-1H-benzimidazole-1-carboxamide | 0.31 g, 83% | CN(C(=O)[C@H](C(C)(C)C)NC(=O)N1C(N(C2=C1C=CC=C2C)CCSC)=O)C | C20H30N4O3S
